### PR TITLE
feat(Algebra/Bijective): a weakly étale bijective-on-residue-fields local hom is an isomorphism

### PR DESCRIPTION
**Pull request by chrisflav**
Fill three sorries in `Proetale/Algebra/Bijective.lean`:

- `Algebra.bijective_comap_lmul'_of_bijective_of_bijective`: if a ring map `R → S` is bijective on prime spectra with trivial residue field extensions, then `Spec S → Spec (S ⊗[R] S)` (via `lmul'`) is bijective.
- `Algebra.bijective_of_bijective_of_flat`: a flat, surjective ring map that is bijective on prime spectra is an isomorphism (its kernel is a pure ideal with empty vanishing locus, hence zero).
- `Algebra.WeaklyEtale.bijective_algebraMap_of_bijective_residueFieldMap`: a weakly étale local homomorphism of local rings that is bijective on spectra with trivial residue field extensions is an isomorphism.

These correspond to the blueprint lemmas `lem:bij-on-spectrum-of-unique-lying-over-and-residue-field-eq`, `lem:iso-of-bij-on-spectrum-and-surj-and-flat`, and `lem:isom-of-unique-lying-over-and-residue-field-eq`; the matching proof-level `\leanok`s are added.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: Proetale/Algebra/Bijective.lean [hunk 1]
```diff
@@ -60,7 +151,39 @@ lemma WeaklyEtale.bijective_algebraMap_of_bijective_residueFieldMap
...
         (IsLocalRing.ResidueField.map (Localization.localRingHom p q (algebraMap R S)
           ‹q.LiesOver p›.over))) :
-    Function.Bijective (algebraMap R S) :=
-  sorry
+    Function.Bijective (algebraMap R S) := by
+  have hff : Module.FaithfullyFlat R S := .of_flat_of_isLocalHom
+  -- The multiplication map `S ⊗[R] S → S` is flat, surjective and bijective on prime
+  -- spectra, hence bijective.
+  have hμ : Function.Bijective (TensorProduct.lmul' (S := S) R) := by
+    letI : Algebra (S ⊗[R] S) S := (TensorProduct.lmul' (S := S) R).toRingHom.toAlgebra
```
Comment (chrisflav) [inline Proetale/Algebra/Bijective.lean]: Use `algebraize` here.

File: Proetale/Algebra/Bijective.lean [hunk 2]
```diff
@@ -4,19 +4,20 @@ variable {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
...
 open TensorProduct
 
-namespace Algebra
+/-- A ring hom `f` admitting a section `g` (i.e. `f.comp g = id`) induces an injective map on
+prime spectra, with left inverse `comap g`. -/
+theorem PrimeSpectrum.comap_injective_of_comp_eq_id {A B : Type*} [CommRing A] [CommRing B]
+    {f : A →+* B} {g : B →+* A} (h : f.comp g = RingHom.id B) :
+    Function.Injective (PrimeSpectrum.comap f) :=
+  Function.LeftInverse.injective (g := PrimeSpectrum.comap g) fun z ↦ by
+    rw [← PrimeSpectrum.comap_comp_apply, h, PrimeSpectrum.comap_id]
```
Comment (chrisflav) [inline Proetale/Algebra/Bijective.lean]: This is a useless lemma, instead use that a surjective ring hom induces an injective map on prime spectra.

File: Proetale/Algebra/Bijective.lean [hunk 3]
```diff
@@ -4,19 +4,20 @@ variable {R S : Type*} [CommRing R] [CommRing S] [Algebra R S]
...
 
-lemma isLocalRing_tensorProduct_of_krullDimLE_zero (k : Type*) [Field k] (R : Type*)
-    [CommRing R] [IsLocalRing R] [Algebra k R] [IsLocalHom (algebraMap k R)] [Ring.KrullDimLE 0 R]
-    (h : Function.Bijective (algebraMap k (IsLocalRing.ResidueField R))) :
-    IsLocalRing (R ⊗[k] R) :=
-  sorry
+/-- A left inverse `f` of a bijection `g` is itself bijective. -/
+theorem Function.bijective_of_leftInverse_of_bijective {α β : Type*} {f : α → β} {g : β → α}
+    (h : Function.LeftInverse g f) (hg : Function.Bijective g) : Function.Bijective f :=
```
Comment (chrisflav) [inline Proetale/Algebra/Bijective.lean]: This should go to an earlier file.

File: blueprint/src/chapters/more-on-local-structure.tex [hunk 4]
```diff
@@ -686,11 +668,23 @@ \section{Local rings}
...
-    \uses{lem:local-dim-zero-tensor}
-    It suffices to show that, for every prime $p$ of $A$, there is exactly one prime ideal $q'$
-    of $B \otimes_A B$ lying over $p$. To detect this, we may assume $A$ is a field by replacing
-    $A$ with $\kappa(\mathfrak{p})$, $B$ with $\kappa(\mathfrak{p}) \otimes_A B$ which is a local
-    ring. Now the goal follows from \Cref{lem:local-dim-zero-tensor}.
+    \leanok
+    Write $\mu : B \otimes_A B \to B$ for the multiplication map and $\iota_1, \iota_2 : B \to
+    B \otimes_A B$ for the two inclusions. Since $\mu \circ \iota_1 = \mathrm{id}_B$, the map
+    $\iota_1$ is a section of $\mu$, so $\operatorname{Spec}(\iota_1)$ is a left inverse of
+    $\operatorname{Spec}(\mu)$ and hence $\operatorname{Spec}(\mu)$ is injective.
```
Comment (chrisflav) [inline blueprint/src/chapters/more-on-local-structure.tex:675]: Also update the verso blueprint.

**Comment by chrisflav** [comment]
Merge latest master and fix the merge conflicts.

**Comment by chrisflav** [comment]
Pushed `75af9a5`. `get_pr_comments` reports no unresolved review threads — all four earlier ones were addressed by `3376a0a` and `6af35b3` — so this run brought the branch up to date with `master` and did a style pass.

- **Merged current `master`.** `521510c` deleted `blueprint/src/` and renamed `blueprint-verso/` → `blueprint/`, so the branch's `.tex` edit came back as a modify/delete conflict; I dropped the `.tex`. The same blueprint change was already mirrored in the verso chapter, which git carried through the rename, so no content was lost.
- **Removed the root `Challenge.lean` / `Solution.lean`.** Master's lakefile gives those libs `srcDir = "Comparator"` and validation runs `mk_all --lib Proetale`, so the empty umbrella files are no longer needed and only widened the diff.
- **Style in `Proetale/Algebra/Bijective.lean`:** binders moved left of the colon in `hcommfun`, `hkey`, `hχ` and `hone` instead of `∀` plus `intro`, and one `simp only [...]` followed by `rw` merged into a terminal `simp`.

The diff is now four files: `Proetale.lean`, `Proetale/Algebra/Bijective.lean`, `Proetale/Mathlib/Logic/Function/Basic.lean`, `blueprint/ProetaleBlueprint/Chapters/MoreOnLocalStructure.lean`. `.agent/validation.sh` passes.

This run has no tool that can edit the PR description, so here is the up-to-date version to paste in.

---

**Title:** `feat(Algebra): a weakly étale local homomorphism bijective on spectra and residue fields is an isomorphism`

Prove three of the sorried statements in `Proetale/Algebra/Bijective.lean`.

- `Algebra.WeaklyEtale.bijective_algebraMap_of_bijective_residueFieldMap` (`lem:isom-of-unique-lying-over-and-residue-field-eq`): a weakly étale local homomorphism `R → S` of local rings that is bijective on prime spectra and induces a bijection on every residue field extension is an isomorphism.
- `Algebra.bijective_comap_lmul'_of_bijective_of_bijective` (`lem:bij-on-spectrum-of-unique-lying-over-and-residue-field-eq`): under those same hypotheses on `R → S`, the multiplication map `S ⊗[R] S → S` is bijective on prime spectra.
- `Algebra.bijective_of_bijective_of_flat` (`lem:iso-of-bij-on-spectrum-and-surj-and-flat`): a flat surjective ring map that is bijective on prime spectra is an isomorphism.

The blueprint proofs of the first two are rewritten to the arguments actually formalised, and the scaffolding lemma `lem:local-dim-zero-tensor` — a field-reduction strategy the formalisation does not follow — is dropped along with its two sorried Lean statements. `Function.bijective_of_leftInverse_of_bijective` is added to the Mathlib mirror tree.
